US04563446
p-Toluenesulfonate of (E)-7-phenyl-7-(3-pyridyl)-6-hepten-1-ol (0.2 g, 0.5 mmole) was dissolved in a methanolic solution (1 ml) of 28% sodium methoxide and the solution was allowed to stand at room temperature for 3 days. To the reaction mixture was added water (10 ml) and the product was extracted twice with ethyl acetate. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was then subjected to silica gel column chromatography using isopropyl ether-ethyl acetate (1:1) as the developing solvent to give (E)-1-methoxy-7-phenyl-7-(3-pyridyl)-6-heptene (0.1 g, 75%) (Compound I-37) as an oil.

reactant | p-Toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | (E)-7-phenyl-7-(3-pyridyl)-6-hepten-1-ol | 0.5 mmole, 0.2 g | C1(=CC=CC=C1)\C(=C/CCCCCO)\C=1C=NC=CC1 | C18H21NO
reactant | water | 10 ml | O | H2O
solvent | sodium methoxide | 1 ml | C[O-].[Na+]
product | (E)-1-methoxy-7-phenyl-7-(3-pyridyl)-6-heptene | 0.1 g, 75% | COCCCCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1 | C19H23NO
